### PR TITLE
Small cleanup in the Reals library

### PR DESCRIPTION
**Pull request by ghost**
Rlt_mult_inv_pos and Rle_mult_inv_pos shouldn't be in R_sqrt.v. Instead, I've added Rdiv_le_pos to RIneq.v.

**Kind:** feature / infrastructure.

### CODE REVIEW

File: theories/Reals/R_sqrt.v [hunk 1]
```diff
@@ -158,22 +158,6 @@ Proof.
       | apply (sqrt_positivity x (Rlt_le 0 x H1)) ].
 Qed.
 
-Lemma Rlt_mult_inv_pos : forall x y:R, 0 < x -> 0 < y -> 0 < x * / y.
```
Comment (herbelin) [inline theories/Reals/R_sqrt.v:161]: I don't know the library very well. Isn't this lemma still possibly useful?

File: theories/Reals/RIneq.v [hunk 2]
```diff
@@ -2130,6 +2130,13 @@ Proof.
 intros; apply Rmult_lt_0_compat;[|apply Rinv_0_lt_compat]; assumption.
 Qed.
 
+Lemma Rdiv_le_pos : forall a b, 0 <= a -> 0 < b -> 0 <= a / b.
+Proof.
+intros. eapply Rmult_le_pos.
```
Comment (herbelin) [inline theories/Reals/RIneq.v:2135]: To consistency with the general indentation rule:
```suggestion
  intros. eapply Rmult_le_pos.
```
Next three lemmas, starting with `Rdiv_lt_0_compat`, have themselves a wrong indentation.

**Review by herbelin — APPROVED** [review]
Relevant as far as I can judge, thanks a lot!

File: theories/Reals/R_sqrt.v (hunk 1 above)
Comment (rpgcbaptista) [reply theories/Reals/R_sqrt.v:161]: Users already have
Rmult_lt_0_compat: forall r1 r2 : R, 0 < r1 -> 0 < r2 -> 0 < r1 * r2
Rinv_0_lt_compat: forall r : R, 0 < r -> 0 < / r
and
Rdiv_lt_0_compat: forall a b : R, 0 < a -> 0 < b -> 0 < a / b

Comment (herbelin) [reply theories/Reals/R_sqrt.v:161]: Thanks! This answers my question.

Comment (thery) [reply theories/Reals/R_sqrt.v:161]: People may have used them in their development. Should we deprecate them first?

Comment (silene) [reply theories/Reals/R_sqrt.v:161]: > Should we deprecate them first?

Most certainly. They should be marked as compatibility aliases.

```console
$ git grep -c Rlt_mult_inv_pos
src/Float/Specific_bigint.v:2
```

Also, it would be great to do this deprecation work for `Fourier_util` too, as it contains the same theorems.

File: theories/Reals/RIneq.v [hunk 3]
```diff
@@ -2125,17 +2125,28 @@ Proof.
...
 Proof.
-intros; apply Rmult_lt_0_compat;[|apply Rinv_0_lt_compat]; assumption.
+  intros. apply Rmult_lt_0_compat.
+  - eapply H.
+  - eapply Rinv_0_lt_compat. eapply H0.
 Qed.
 
-Lemma Rdiv_plus_distr : forall a b c, (a + b)/c = a/c + b/c.
-intros a b c; apply Rmult_plus_distr_r.
+Lemma Rdiv_le_pos : forall a b, 0 <= a -> 0 < b -> 0 <= a / b.
```
Comment (silene) [inline theories/Reals/RIneq.v:2135]: I am not too fond of `Rdiv_le_pos`, since it does not follow the naming style of the other lemmas, e.g., `Rdiv_lt_0_compat`. Sure, `Rdiv_le_0_compat` is a bit unwieldy, but naming consistency trumps terseness.

Another possibility would be to deprecate all the `_0_compat` lemmas and add `_pos` variants instead.

File: theories/Reals/R_sqrt.v (hunk 1 above)
Comment (herbelin) [reply theories/Reals/R_sqrt.v:161]: To deprecate, add the following, just before the lemma:
```
#[deprecated(since="8.13",note="use Rdiv_lt_0_compat instead, or Rmult_lt_0_compat and Rinv_0_lt_compat")]
```
or whatever appropriate message.

Comment (thery) [reply theories/Reals/R_sqrt.v:161]: the doc is here https://coq.inria.fr/refman/using/libraries/writing.html#deprecating-library-objects-or-tactics

File: theories/Reals/RIneq.v (hunk 3 above)
Comment (thery) [reply theories/Reals/RIneq.v:2135]: I vote for `Rdiv_lt_0_compat`

**Review by herbelin — COMMENTED** [review]
This is not a comment on the content, just a recommendation on the form, to use bullets when relevant.

**Comment by herbelin** [comment]
@rpgcbaptista: Are you ok with the bullet suggestions? (And sorry for the needed rebase, only related to cosmetic changes).
